US07459454B2
(a) Preparation of Ethyl-(3-nitropyridin-4-yl)amine
4Methoxy-3-nitropyridine hydrochloride (11.2 g, 58.9 mmol) in ethanol (75 ml) was treated with a 70% solution of ethylamine in water (64 ml) and heated under reflux for 2 hours. After cooling to room temperature, the solvent was removed in vacuo and the residue dissolved in ethyl acetate and water. The mixture was extracted (×3) with ethyl acetate, washed with water and saturated aqueous sodium chloride solution before drying over magnesium sulfate. Evaporation of the solvent afforded the title compound (11.7 g, 96%).

reactant | 4Methoxy-3-nitropyridine hydrochloride | 58.9 mmol, 11.2 g | Cl.COC1=C(C=NC=C1)[N+](=O)[O-]
reactant | ethylamine | C(C)N | C2H7N
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 64 ml | O | H2O
product | Ethyl-(3-nitropyridin-4-yl)amine | 11.7 g, 96% | C(C)NC1=C(C=NC=C1)[N+](=O)[O-] | C7H9N3O2
